US06596772B1
4-[(5-Trifluoromethanesulfonylamino-1H-indole-2-carbonyl)-amino]-benzoic acid (84).
Same procedure as Example 82 except 5-Trifluoromethansulfonylamino-1H-Indole-2-Carboxylic Acid and 4-aminobenzoic methyl ester was used. 1H-NMR (400 MHz, DMSO-d6) δ 12.74 (s, 1H, COOH), 11.99 (d, J=1.2 Hz, 1H, NHCO), 11.61 (s, 1H, SNH), 10.54 (s, 1H, NH-1), 7.95 (m, 4H, ArH), 7.61 (d, J=2.1 Hz, 1H H-4), 7.50 (m, 2H, H-7 & H-3), 7.14 (dd, J=2, 9 Hz, 1H, H-6), MS m/z 426 (M−H).

reactant | 5-Trifluoromethansulfonylamino-1H-Indole-2-Carboxylic Acid | FC(S(=O)(=O)NC=1C=C2C=C(NC2=CC1)C(=O)O)(F)F | C10H7F3N2O4S
reactant | 4-aminobenzoic methyl ester | COC(C1=CC=C(C=C1)N)=O | C8H9NO2
product | 4-[(5-Trifluoromethanesulfonylamino-1H-indole-2-carbonyl)-amino]-benzoic acid | FC(S(=O)(=O)NC=1C=C2C=C(NC2=CC1)C(=O)NC1=CC=C(C(=O)O)C=C1)(F)F | C17H12F3N3O5S
